US08487108B2
To a solution of tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-ylcarbamate (83 mg, 0.28 mmol) in anhydrous THF (5 mL) at −78° C. was added 1.0 M LHMDS solution in THF (1.1 mL, 1.12 mmol), then stirred at this temperature for 30 min. To this mixture was added MeI (237 mg, 104 μL, 1.67 mmol), then the temperature was allowed to warm to 0° C., and stand for 12 h and −20° C. The reaction mixture was quenched with saturated aq. NH4Cl, extracted with EtOAc (30 mL), the separated organic phase was washed with H2O (2×10 mL), brine, and dried over Na2SO4, and filtered. The filtrate was concentrated, the resulting slurry was purified through flash chromatography on silica gel (eluted with gradient system, 0-30% EtOAc in hexane) to afford tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-yl(methyl)carbamate. MS ESI +ve m/z 321 (M+Na).

reactant | tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-ylcarbamate | 0.28 mmol, 83 mg | N(=[N+]=[N-])C[C@H](C[C@H]1COCCCC1)NC(OC(C)(C)C)=O | C14H26N4O3
reactant | LHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeI | 1.67 mmol, 104 μL, 237 mg | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.12 mmol, 1.1 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-yl(methyl)carbamate | N(=[N+]=[N-])C[C@H](C[C@H]1COCCCC1)N(C(OC(C)(C)C)=O)C | C15H28N4O3
